US09233977B2
Step 2: 3-(Cyclopentylsulfanyl)-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one
To a solution of cyclopentanethiol (54 μL, 0.50 mmol) in THF (0.5 mL) at 0° C. was added NaH (20.0 mg, 0.50 mmol). The reaction mixture was warmed to rt and tert-butyl 3-(methylsulfonyl)-4-oxo-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridine-5(4H)-carboxylate (100 mg, 0.25 mmol) was added, After 30 min, the reaction was quenched with aqueous NH4Cl and extracted with CH2Cl2. The combined extracts were dried (Na2SO4) and concentrated. Purification by silica gel chromatography (gradient elution, 0-100% EtOAc /hexanes) afforded the title compound. 1H NMR (400 MHz, ppm, CD3OD) δ 7.73 (d, J=2.3 Hz, 1 H); 6.50 (d, J=2.4 Hz, 1 H); 3.77 (m, 1 H); 3.44 (t, J=6.2 Hz, 2 H); 3.04 (t, J=6.3 Hz, 2 H); 2.32-2.22 (m, 2 H); 1.85-1.77 (m, 2 H); 1.76-1.65 (m, 4 H). HRMS (ES+) m/z 320.0879 [(M+H)+; calcd for C15 H17N3OS2: 320.0886].

reactant | cyclopentanethiol | 0.50 mmol, 54 μL | C1(CCCC1)S | C5H10S
reactant | NaH | 0.50 mmol, 20.0 mg | [H-].[Na+]
reactant | tert-butyl 3-(methylsulfonyl)-4-oxo-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridine-5(4H)-carboxylate | 0.25 mmol, 100 mg | CS(=O)(=O)C=1SC(=C2C1C(N(CC2)C(=O)OC(C)(C)C)=O)C2=NNC=C2 | C16H19N3O5S2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(Cyclopentylsulfanyl)-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one | C1(CCCC1)SC=1SC(=C2C1C(NCC2)=O)C2=NNC=C2 | C15H17N3OS2
